US05177069
To a solution of methyl 5-(2-naphthylsulfonyl)-4-(N-pentyl-N-piperidinocarbonylmethylcarbamoyl)pentanoate (0.18 g) in methanol (3 ml) was added a 1N sodium hydroxide solution (0.32 ml). After stirring at room temperature for 16 hours, the reaction mixture was concentrated in vacuo, acidified with a dilute hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with water, dried over MgSO4, and evaporated at reduced pressure. The residue was recrystallized from isopropyl ether to give 0.08 g of 5-(2-naphthylsulfonyl)-4-(N-pentyl-N-piperidinocarbonylmethylcarbamoyl)pentanoic acid.

reactant | methyl 5-(2-naphthylsulfonyl)-4-(N-pentyl-N-piperidinocarbonylmethylcarbamoyl)pentanoate | 0.18 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)CC(CCC(=O)OC)C(N(CC(=O)N1CCCCC1)CCCCC)=O | C29H40N2O6S
reactant | sodium hydroxide | 1N, 0.32 ml | [OH-].[Na+]
solvent | methanol | 3 ml | CO | CH4O
product | 5-(2-naphthylsulfonyl)-4-(N-pentyl-N-piperidinocarbonylmethylcarbamoyl)pentanoic acid | 0.08 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)CC(CCC(=O)O)C(N(CC(=O)N1CCCCC1)CCCCC)=O | C28H38N2O6S
